US03932402
Chlorosulfonic acid has been shown to be an effective catalyst for the trimerization of benzonitrile, providing a 68 percent yield of 2,4,6-triphenyl-s-triazine (J. Chem. Soc., 1941, 278). However, as shown in the following example, chlorosulfonic acid is ineffective to trimerize isobutyronitrile.

reactant | Chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 2,4,6-triphenyl-s-triazine | 68 percent yield | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H15N3
